** Name: SymmetricalOpAmp9

.MACRO SymmetricalOpAmp9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=16e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=71e-6
mDiodeTransistorNmos3 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=30e-6
mDiodeTransistorNmos4 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=71e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=38e-6
mDiodeTransistorPmos6 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos7 inOutputStageBiasComplementarySecondStage inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=64e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=2e-6 W=42e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=42e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=98e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=98e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=247e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=174e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=97e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=206e-6
mNormalTransistorPmos16 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=67e-6
mNormalTransistorPmos17 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=174e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=254e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=103e-6
mNormalTransistorPmos20 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=103e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp9

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 2.07401 mW
** Area: 6616 (mu_m)^2
** Transit frequency: 8.20901 MHz
** Transit frequency with error factor: 8.20916 MHz
** Slew rate: 9.31137 V/mu_s
** Phase margin: 69.328°
** CMRR: 152 dB
** negPSRR: 53 dB
** posPSRR: 74 dB
** VoutMax: 4.64001 V
** VoutMin: 0.310001 V
** VcmMax: 4.01001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 113.539 muA
** NormalTransistorPmos: -54.0359 muA
** NormalTransistorPmos: -65.6889 muA
** DiodeTransistorNmos: 33.8401 muA
** DiodeTransistorNmos: 33.8401 muA
** NormalTransistorPmos: -67.6819 muA
** NormalTransistorPmos: -33.8409 muA
** NormalTransistorPmos: -33.8409 muA
** NormalTransistorNmos: 46.6651 muA
** NormalTransistorNmos: 46.6641 muA
** NormalTransistorPmos: -46.6659 muA
** NormalTransistorPmos: -46.6669 muA
** NormalTransistorPmos: -47.1359 muA
** NormalTransistorPmos: -47.1369 muA
** NormalTransistorNmos: 47.1351 muA
** NormalTransistorNmos: 47.1341 muA
** DiodeTransistorNmos: 54.0351 muA
** DiodeTransistorNmos: 65.6881 muA
** DiodeTransistorPmos: -113.538 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19301  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.71201  V
** inOutputTransconductanceComplementarySecondStage: 0.718001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.27601  V
** inputVoltageBiasXXnXX0: 0.789001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.24401  V
** innerStageBias: 4.47301  V
** innerTransconductance: 0.151001  V
** inner: 4.44101  V
** inner: 0.150001  V


.END