** Name: SymmetricalOpAmp94

.MACRO SymmetricalOpAmp94 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=7e-6 W=8e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=40e-6
mDiodeTransistorPmos3 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=4e-6 W=194e-6
mDiodeTransistorPmos4 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=4e-6 W=28e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=7e-6 W=72e-6
mNormalTransistorNmos6 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=7e-6 W=74e-6
mNormalTransistorNmos7 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=7e-6 W=74e-6
mNormalTransistorNmos8 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=7e-6 W=72e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=36e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=36e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=70e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=70e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=46e-6
mNormalTransistorPmos14 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=4e-6 W=73e-6
mNormalTransistorPmos15 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=46e-6
mNormalTransistorPmos16 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=68e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=272e-6
mNormalTransistorPmos18 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=4e-6 W=194e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp94

** Expected Performance Values: 
** Gain: 82 dB
** Power consumption: 1.19801 mW
** Area: 6828 (mu_m)^2
** Transit frequency: 3.46101 MHz
** Transit frequency with error factor: 3.46129 MHz
** Slew rate: 13.2877 V/mu_s
** Phase margin: 80.7871°
** CMRR: 135 dB
** negPSRR: 37 dB
** posPSRR: 47 dB
** VoutMax: 3.71001 V
** VoutMin: 0.420001 V
** VcmMax: 3.59001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -17.2349 muA
** NormalTransistorNmos: 34.4711 muA
** NormalTransistorNmos: 34.4701 muA
** NormalTransistorNmos: 34.4711 muA
** NormalTransistorNmos: 34.4701 muA
** NormalTransistorPmos: -68.9429 muA
** NormalTransistorPmos: -34.4719 muA
** NormalTransistorPmos: -34.4719 muA
** NormalTransistorNmos: 66.6611 muA
** NormalTransistorNmos: 66.6621 muA
** NormalTransistorPmos: -66.6619 muA
** NormalTransistorPmos: -66.6629 muA
** DiodeTransistorPmos: -66.6639 muA
** DiodeTransistorPmos: -66.6649 muA
** NormalTransistorNmos: 66.6631 muA
** NormalTransistorNmos: 66.6621 muA
** DiodeTransistorNmos: 17.2341 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 4.15801  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.86101  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.827001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.223001  V
** innerTransistorStack2Load1: 0.223001  V
** sourceTransconductance: 3.67601  V
** innerStageBias: 3.875  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END