** Name: SimpleOpAmp115

.MACRO SimpleOpAmp115 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=77e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=22e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=3e-6 W=480e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=248e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=39e-6
mNormalTransistorNmos8 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=536e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=514e-6
mNormalTransistorNmos10 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=248e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=414e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=414e-6
mNormalTransistorPmos13 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=10e-6 W=172e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=114e-6
mNormalTransistorPmos15 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=3e-6 W=480e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp115

** Expected Performance Values: 
** Gain: 92 dB
** Power consumption: 2.79401 mW
** Area: 12939 (mu_m)^2
** Transit frequency: 33.0151 MHz
** Transit frequency with error factor: 33.0155 MHz
** Slew rate: 50.3574 V/mu_s
** Phase margin: 71.0468°
** CMRR: 129 dB
** VoutMax: 3.48001 V
** VoutMin: 0.600001 V
** VcmMax: 3.74001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 38.2641 muA
** NormalTransistorPmos: -195.033 muA
** NormalTransistorNmos: 157.703 muA
** NormalTransistorNmos: 157.703 muA
** NormalTransistorPmos: -157.702 muA
** NormalTransistorPmos: -157.702 muA
** DiodeTransistorPmos: -157.702 muA
** NormalTransistorNmos: 510.441 muA
** NormalTransistorNmos: 510.44 muA
** NormalTransistorNmos: 157.704 muA
** NormalTransistorNmos: 157.704 muA
** DiodeTransistorNmos: 195.034 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -38.2649 muA


** Expected Voltages: 
** ibias: 1.18001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.99701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerSourceLoad2: 4.20001  V
** innerStageBias: 0.625  V
** out1: 2.91701  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END