** Name: SimpleOpAmp119

.MACRO SimpleOpAmp119 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=515e-6
mDiodeTransistorPmos5 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=345e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=131e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=82e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=250e-6
mNormalTransistorNmos9 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=441e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=427e-6
mNormalTransistorNmos11 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=82e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=412e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=412e-6
mNormalTransistorPmos14 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=131e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=222e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=345e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp119

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 3.38001 mW
** Area: 10466 (mu_m)^2
** Transit frequency: 33.1021 MHz
** Transit frequency with error factor: 33.1022 MHz
** Slew rate: 41.7424 V/mu_s
** Phase margin: 86.5167°
** CMRR: 146 dB
** VoutMax: 4.02001 V
** VoutMin: 0.600001 V
** VcmMax: 3.71001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 246.128 muA
** NormalTransistorPmos: -106.085 muA
** NormalTransistorNmos: 156.942 muA
** NormalTransistorNmos: 156.942 muA
** DiodeTransistorPmos: -156.941 muA
** DiodeTransistorPmos: -156.942 muA
** NormalTransistorPmos: -156.941 muA
** NormalTransistorPmos: -156.942 muA
** NormalTransistorNmos: 419.971 muA
** NormalTransistorNmos: 419.97 muA
** NormalTransistorNmos: 156.943 muA
** NormalTransistorNmos: 156.943 muA
** DiodeTransistorNmos: 106.086 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -246.127 muA


** Expected Voltages: 
** ibias: 1.16101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.10801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.606001  V
** innerTransistorStack1Load2: 4.27601  V
** innerTransistorStack2Load2: 4.27401  V
** out1: 3.45201  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END