** Name: SimpleOpAmp46

.MACRO SimpleOpAmp46 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=144e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=19e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=9e-6
mDiodeTransistorPmos4 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=2e-6 W=192e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=2e-6 W=492e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=253e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=253e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=63e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=63e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=245e-6
mNormalTransistorPmos11 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=492e-6
mNormalTransistorPmos12 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=2e-6 W=192e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=375e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=375e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=537e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp46

** Expected Performance Values: 
** Gain: 83 dB
** Power consumption: 10.5951 mW
** Area: 7445 (mu_m)^2
** Transit frequency: 44.6341 MHz
** Transit frequency with error factor: 44.6344 MHz
** Slew rate: 59.7443 V/mu_s
** Phase margin: 87.0896°
** CMRR: 135 dB
** VoutMax: 3.47001 V
** VoutMin: 0.990001 V
** VcmMax: 3.72001 V
** VcmMin: -0.149999 V


** Expected Currents: 
** NormalTransistorPmos: -274.267 muA
** NormalTransistorNmos: 608.248 muA
** NormalTransistorNmos: 912.37 muA
** NormalTransistorNmos: 608.25 muA
** NormalTransistorNmos: 912.372 muA
** DiodeTransistorPmos: -608.247 muA
** DiodeTransistorPmos: -608.248 muA
** NormalTransistorPmos: -608.249 muA
** NormalTransistorPmos: -608.248 muA
** NormalTransistorPmos: -608.244 muA
** NormalTransistorPmos: -304.122 muA
** NormalTransistorPmos: -304.122 muA
** DiodeTransistorNmos: 274.268 muA
** DiodeTransistorNmos: 274.267 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.93501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.37201  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.817001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 3.83801  V
** innerTransistorStack2Load2: 3.83601  V
** out1: 2.90101  V
** sourceGCC1: 0.798001  V
** sourceGCC2: 0.798001  V
** sourceTransconductance: 3.27601  V


.END