** Name: SimpleOpAmp52

.MACRO SimpleOpAmp52 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=37e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=14e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=190e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=37e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=249e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=249e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=56e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=43e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=15e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos14 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=195e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=195e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp52

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 4.65901 mW
** Area: 5414 (mu_m)^2
** Transit frequency: 33.6531 MHz
** Transit frequency with error factor: 33.6526 MHz
** Slew rate: 27.5941 V/mu_s
** Phase margin: 61.8795°
** CMRR: 140 dB
** VoutMax: 3.75 V
** VoutMin: 0.440001 V
** VcmMax: 4.93001 V
** VcmMin: 0.930001 V


** Expected Currents: 
** NormalTransistorPmos: -87.5609 muA
** NormalTransistorPmos: -30.0609 muA
** NormalTransistorPmos: -232.032 muA
** NormalTransistorPmos: -397.081 muA
** NormalTransistorPmos: -232.032 muA
** NormalTransistorPmos: -397.081 muA
** DiodeTransistorNmos: 232.033 muA
** NormalTransistorNmos: 232.033 muA
** NormalTransistorNmos: 232.033 muA
** NormalTransistorNmos: 330.096 muA
** NormalTransistorNmos: 165.049 muA
** NormalTransistorNmos: 165.049 muA
** DiodeTransistorNmos: 87.5601 muA
** DiodeTransistorNmos: 30.0601 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.11301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.04601  V
** inputVoltageBiasXXnXX2: 0.780001  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.676001  V
** innerTransistorStack2Load2: 0.471001  V
** sourceGCC1: 3.88401  V
** sourceGCC2: 3.88401  V
** sourceTransconductance: 1.94101  V


.END